US04230707
10-Oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carbonitrile hydrochloride salt
A mixture of 10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxamide (0.3 g., 0.0012 mol) and thionyl chloride (0.18 ml, 0.0025 mol) in dimethylformamide (5 ml) is heated at 70° C. under nitrogen for 4 hours. The reaction mixture is cooled in an ice bath. The product, which precipitates, is filtered off and washed with water. Recrystallization from dimethylformamide gives a crystalline product (0.15 g.), mp 294° C. (dec).

reactant | 10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxamide | 0.0012 mol, 0.3 g | O=C1C=2C(N=C3N1C=C(C=C3)C(=O)N)=CSC2 | C11H7N3O2S
reactant | thionyl chloride | 0.0025 mol, 0.18 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 10-Oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carbonitrile hydrochloride salt | Cl.O=C1C=2C(N=C3N1C=C(C=C3)C#N)=CSC2 | InChI=1S/C11H5N3OS.ClH/c12-3-7-1-2-10-13-9-6-16-5-8(9)11(15)14(10)4-7;/h1-2,4-6H;1H
